US05081131
N-(4-(1H-imidazol-1yl)butyl)benz(cd)indol-2-amine dihydrochloride
A solution of 12 g of N-(4-(1H-imidazol-1-yl)butyl)benz(cd)indol-2-amine in 300 ml of dichloromethane was treated with 100 ml of 2N ethanolic hydrogen chloride. The solution was then taken to dryness in vacuo. The gummy residue was dissolved in 100 ml of water, treated with activated carbon, clarified and the filtrate taken to dryness in vacuo. The residue was treated with 200 ml of ethanol and then taken to dryness in vacuo. The evaporation from ethanol was repeated twice. The final residue was dried at 40° C. over P2O5 in vacuo, giving 18.4 g of the desired product as a hygroscopic golden foamy solid.

reactant | N-(4-(1H-imidazol-1-yl)butyl)benz(cd)indol-2-amine | 12 g | N1(C=NC=C1)CCCCNC1=NC2=CC=CC=3C2=C1C=CC3 | C18H18N4
reactant | hydrogen chloride | 2N, 100 ml | Cl | ClH
reactant | ethanol | 200 ml | C(C)O | C2H6O
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | water | 100 ml | O | H2O
product | N-(4-(1H-imidazol-1yl)butyl)benz(cd)indol-2-amine dihydrochloride | 18.4 g | Cl.Cl.N1(C=NC=C1)CCCCNC1=NC2=CC=CC=3C2=C1C=CC3 | InChI=1S/C18H18N4.2ClH/c1(2-11-22-12-10-19-13-22)9-20-18-15-7-3-5-14-6-4-8-16(21-18)17(14)15;;/h3-8,10,12-13H,1-2,9,11H2,(H,20,21);2*1H
